Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.23938173958
[C:6][H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.96127465268
[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3],2.32319119113
[C:1].[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-2.23450052562
[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.75760269366
[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:11]([H:12])([H:13])[H:14],4.473325441569999
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.05826469124
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:5]([H:6])#[C:7][O:8][H:9].[H:1][C:2]#[C:3][O:4],-0.0599811859110999
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.67789989353
[C:4]([H:5])([H:6])[O:7][C:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9],-3.5924298473400005
[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.43716229455
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])[H:9].[H:6],2.98647706648
[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.16013821133
[H:1][C:2]=[O:3].[O:4][H:5]>>[H:1][C:2][O:3][O:4][H:5],-0.54766345297
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.3958850032
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.89856894755
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.78355311905
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],0.36422765189
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:6],1.93151529492
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],3.53084171461
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([C:4]#[C:8][C:9]([H:10])([H:11])[H:12])[H:6].[H:5][C:7](=[C:13]([H:14])[H:15])[H:16],-1.40715547995
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.80057314089
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.443733373040001
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.85900223879
[H:1][C:2]=[C:3]([H:4])[O:5][H:6]>>[H:1][C:2]#[C:3][O:5][H:6].[H:4],2.10755085512
[C:4]#[C:5][H:6].[H:1][C:2](=[C:3]=[C:8]([H:9])[C:10]([H:11])[H:12])[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.64585865865
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],5.115253200380001
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.91346750876
